US04631274
To a mixture of benzhydryl 7-[2-t-butoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate (syn isomer) (2.2 g) and anisole (2.2 ml) was added trifluoroacetic acid (9.0 ml) in an ice-bath. The mixture was stirred for two hours at room temperature and poured into diisopropyl ether (180 ml). The resulting precipitates were collected by filtration and washed with diisopropyl ether. The precipitates were dissolved in an aqueous solution of sodium bicarbonate and washed with ethyl acetate. The aqueous layer was concentrated to remove organic solvent under reduced pressure, cooled to 5° C. and adjusted to pH 2.2 with diluted hydrochloric acid. The resulting precipitates were collected by filtration, washed with water and dried in vacuo to give 7-[2-carboxymethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylic acid (syn isomer) (1.07 g).

reactant | benzhydryl 7-[2-t-butoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate | 2.2 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)N | C33H32ClN5O7S2
reactant | anisole | 2.2 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 9.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | diisopropyl ether | 180 ml | C(C)(C)OC(C)C | C6H14O
product | 7-[2-carboxymethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylic acid | 1.07 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\Cl)C(=O)O)C1=O)C=1N=C(SC1)N | C16H14ClN5O7S2
